datasets/10k_Mayr_OG.csv
SMILES Labelled
C[N:10](C)[NH:61][CH:62]=[O:63].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[N+:10](C)([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)[NH:61][CH:62]=[O:63] 10=20
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.[H:10][CH:11]1[C:12]2=[C:13]([O:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([H:10])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.[CH:11]1=[C:12]2[C:13](=[O+:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>C[C:22]1=[C:21]([CH:20]([CH:10](Cl)[S:61](C2=CC=C(Cl)C=C2)(=[O:62])=[O:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10=20;20,21=21,22;22,23=23"
"CC[N:10](CC)CC.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>CC[N+:10](CC)(CC)[CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:10]=[CH:11]/[N:12]1CCOCC1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[CH:10]([CH:11]=[N+:12]1CCOCC1)[CH:20]([C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1.[S-:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([S:10][C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>CC[O:72][C:61]([C:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]1[N+](=O)[O-])([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62] 10=20;20,21=21,22;22,23=23"
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].[CH:10]1([Na:11])[CH:61]=[CH:62][C:72]2=[C:71]1[CH:73]=[CH:74][CH:75]=[CH:76]2>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:73]=[CH:74][CH:75]=[CH:76]3)[C:31]1=[O:32].[Na+:11] 10,11=10,20;20,21=21,22;22,23=23"
"C=C(C)CCCC[C:11](C)=[CH2:10].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>C=C(C)CCCC[C+:11](C)[CH2:10][CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]23[N+:62](C)(C[C:73](=[O:74])[O:72]2)C[C:83](=[O:84])[O:82]3)O1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CC1=CC=[C:10]([F:20])O1.C[N+:62]12C[C:73](=[O:74])[O:72][B:11]1[O:82][C:83](=[O:84])C2.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10,11=10,20;20,21=21"
"CC[O:82][C:71]([N-:10][C:61](C)=[O:62])=[O:72].CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>CC[O:82][C:71]([N:10]([CH:20]([C:21](C)=[N:22][N:23]=[C:24](OC)[O-:25])[C:31](=[O:32])[N:33](C)C)[C:61](C)=[O:62])=[O:72] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>C[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]([C:31]#[C:32][C:33]12C3C4C5C6C1[Cr-3:34]54632(C#[O+])(C#[O+])C#[O+])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[O:62] 10,11=10,20;12=11,12"
"Br[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1.C[N+:21](C1=CC=CC=C1)=[CH2:20]>>C[N:21](C1=CC=CC=C1)[CH2:20][CH:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](Br)[CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21"
"CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C:11](C)(C)[H:10].C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C+:11](C)C.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20"
